US07335658B2
4-CYCLOHEXYL-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}BUTYRAMIDE
Following the procedure of Example 2, making variations only as required to use 4-cyclohexylbutyric acid in place of benzyloxyacetic acid to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (18% yield). 1H NMR (300 MHz, CDCl3) δ 9.04, 8.32, 7.68, 7.56, 7.49, 7.30, 7.04-7.00, 3.99-3.23, 2.40, 1.89-1.83, 1.69-0.84.

reactant | 4-cyclohexylbutyric acid | C1(CCCCC1)CCCC(=O)O | C10H18O2
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 4-CYCLOHEXYL-N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}BUTYRAMIDE | C1(CCCCC1)CCCC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C26H32F3N5O2
